US04055561
Following essentially the same procedure described in Example IV above and substituting ρ-dodecyloxy-α-methylbenzylamine hydrochloride for the α-methyl-ρ-phenyethylbenzylamine hydrochloride above, results in the formation of 2-(ρ-dodecyloxy-α-methylbenzylimino)hexahydroazepine hydrochloride having a M.P. of 186°-8° C. (dec.)

reactant | ρ-dodecyloxy-α-methylbenzylamine hydrochloride | Cl.C(CCCCCCCCCCC)OC1=CC=C(C(C)N)C=C1
reactant | α-methyl-ρ-phenyethylbenzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
product | 2-(ρ-dodecyloxy-α-methylbenzylimino)hexahydroazepine hydrochloride | Cl.C(CCCCCCCCCCC)OC1=CC=C(C(C)N=C2NCCCCC2)C=C1 | InChI=1S/C26H44N2O.ClH/c1-3-4-5-6-7-8-9-10-11-15-22-29-25-19-17-24(18-20-25)23(2)28-26-16-13-12-14-21-27-26;/h17-20,23H,3-16,21-22H2,1-2H3,(H,27,28);1H
